US04139540
A mixture of 11.6 parts of 2-bromo-4'-chloroacetophenone, 12.4 parts of 1-(2,4-dichlorophenyl)-1,2-ethanediol, 0.1 parts of p-toluenesulfonic acid, 80 parts of n-butanol and 160 parts of benzene is stirred and refluxed for 24 hours with water-separator. The solvent is removed in vacuo and the residue is triturated in methanol. The precipitated product is filtered off and crystallized from petroleum ether, yielding 2-(bromomethyl)-2-(p-chlorophenyl)-4-(2,4-dichlorophenyl)-1,3-dioxolane; m.p. 82.7° C.

reactant | 2-bromo-4'-chloroacetophenone | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 1-(2,4-dichlorophenyl)-1,2-ethanediol | ClC1=C(C=CC(=C1)Cl)C(CO)O | C8H8Cl2O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(bromomethyl)-2-(p-chlorophenyl)-4-(2,4-dichlorophenyl)-1,3-dioxolane | BrCC1(OCC(O1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C16H12BrCl3O2
